US07504411B2
A solution of 2-bromo-5-fluoroanisole (11.8 g, 57.6 mmol) in tetrahydrofuran (60 ml) was dropped into the magnesium (1.40 g, 57.6 mmol) in refluxed tetrahydrofuran (32 ml) containing small amount of 1,2-dibromoethane and refluxed for 15 min. After addition of tetrahydrofuran (50 ml), the solution was cooled to −78° C. and diethyl oxalate (7.41 g; 50.7 mmol) in diethyl ether (50 ml) was dropped into the solution. After stirring at the same temperature for 30 min, the solution was warmed to −10° C. and 1N aqueous hydrogen chloride (50 ml) and water were added. Organic layer was extracted with diethyl ether, washed with brine and dried over magnesium sulfate. After removal of the solvent under reduced pressure, purification of the residue by silica gel column chromatography (eluent: hexane/ethyl acetate=5/2) gave ethyl 2-(4-fluoro-2-methoxyphenyl)-2-oxoacetate (6.80 g, 59%)

reactant | 2-bromo-5-fluoroanisole | 57.6 mmol, 11.8 g | BrC1=C(C=C(C=C1)F)OC | C7H6BrFO
reactant | magnesium | 57.6 mmol, 1.40 g | [Mg] | Mg
reactant | 1,2-dibromoethane | BrCCBr | C2H4Br2
reactant | diethyl oxalate | 50.7 mmol, 7.41 g | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | hydrogen chloride | 1N, 50 ml | Cl | ClH
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 32 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | ethyl 2-(4-fluoro-2-methoxyphenyl)-2-oxoacetate | 6.80 g, 59% | FC1=CC(=C(C=C1)C(C(=O)OCC)=O)OC | C11H11FO4
